* C:\Users\Rémi\Documents\GitHub\2021_2022_CAPTEUR_PEREUR_CUCULIERE\ELECTRONIQUE_ANALOGIQUE_SIMLUATIONS\Schéma_solution_Ampli_Transimpédance.asc
C1 N006 0 100n
R1 N006 0 100k
R2 N004 0 1k
XU1 N006 N004 +5V 0 N005 LTC1050
R6 ADC N005 1k
C2 ADC 0 100n
C4 N004 N005 1µ
R3 N004 N005 100k
C3 +5V 0 100n
V1 +5V 0 5
XX1 +5V N003 N002 N001 schéma_simulation_capteur
V2 N001 N002 PULSE(0 1 0.2 0.1 0.1 20)
R5 N003 N006 10k

* block symbol definitions
.subckt schéma_simulation_capteur cp cn gn gp
R1 gp gc R
C1 gc gn C
I§B1 cp cn I=V(cp,cn)*(10n+(v(gc,gn)*10n))
.ends schéma_simulation_capteur

.tran 2
;ac dec 200 1 1G
.lib LTC.lib
.backanno
.end
